US06087380
1-Methyl-2-[N-[4-(N-benzoylamidino)phenyl]-N-methyl-amino-methyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and benzoyl chloride. Yield: 63% of theory, C35H35N7O4 (617.7) ##EQU91##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-Methyl-2-[N-[4-(N-benzoylamidino)phenyl]-N-methyl-amino-methyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | Yield: 63% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C(NC(C2=CC=CC=C2)=O)=N)C)C=C1)CCC(=O)OCC | C35H35N7O4
